US09447091B2
2-(4-(1-(5-amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-1H-benzo[d]imidazol-5-yl)-1H-pyrazol-1-yl)ethanol
To a solution of N-(2′,4′-difluoro-5-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)-ethyl)-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)acetamide (0.12 g, 0.125 mmol) in methanol (5 ml) was added (1 ml) acetyl chloride at 0° C. The mixture was stirred at RT for 16 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off to afford the product in 28% yield (0.026 g). 1H NMR (400 MHz, DMSO-d6): δ 8.53 (s, 1H), 8.20 (s, 1H), 7.97-7.95 (d, 2H), 7.69-7.64 (m, 2H), 7.59-7.56 (dd, 1H), 7.39-7.36 (m, 1H), 6.88 (s, 2H), 6.82 (d, 1H), 5.70 (s, 2H), 4.95 (s, 1H), 4.19-4.16 (t, 2H), 3.81-3.78 (t, 2H); LC-MS (ESI): Calculated mass: 431.44; Observed mass: 432.2 [M+H]+ (rt: 0.4 min).

reactant | N-(2′,4′-difluoro-5-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)-ethyl)-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)acetamide | 0.125 mmol, 0.12 g | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)CCOC2OCCCC2)NC(C)=O | C31H29F2N5O3
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 5 ml | CO | CH4O
product | 2-(4-(1-(5-amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-1H-benzo[d]imidazol-5-yl)-1H-pyrazol-1-yl)ethanol | 28% yield | NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)CCO | C24H19F2N5O
